US03965095
EXAMPLE 10: 4-(3-tert-butylamino-2-nicotinoyloxypropoxy)oxindole [process variant b)]
5 g of 4-[3-(N-benzyl-tert-butylamino)-2-nicotinoyloxypropoxy]oxindole are debenzylated with hydrogen in 25 cc of tetrahydrofuran, in the presence of 1 g of a palladium catalyst (10% of palladium on charcoal). The title compound is obtained, the dihydrochloride thereof having a M.P. of 215°-218°.

reactant | 4-[3-(N-benzyl-tert-butylamino)-2-nicotinoyloxypropoxy]oxindole | 5 g | C(C1=CC=CC=C1)N(CC(COC1=C2CC(NC2=CC=C1)=O)OC(C1=CN=CC=C1)=O)C(C)(C)C | C28H31N3O4
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 25 cc | O1CCCC1 | C4H8O
catalyst | palladium | 1 g | [Pd] | Pd
product | 4-(3-tert-butylamino-2-nicotinoyloxypropoxy)oxindole | C(C)(C)(C)NCC(COC1=C2CC(NC2=CC=C1)=O)OC(C1=CN=CC=C1)=O | C21H25N3O4
